US05606063
Dissolve 4-ethyl-2-nitro-6-bromoaniline (6.62g, 27mmol) in ethanol (40mL). Add, by dropwise addition, concentrated sulfuric acid (5mL) and heat at reflux, adding sodium nitrite (4.55g, mmol) in small portions over 25 minutes. Stir at room temperature for several hours, pour onto ice and extract into ethyl acetate. Wash with water (3×) and brine (3×). Dry (MgSO4) and evaporate the solvent in vacuo and purify by silica gel chromatography to give 3-bromo-5-ethylnitrobenzene.

reactant | 4-ethyl-2-nitro-6-bromoaniline | 27mmol, 6.62g | C(C)C1=CC(=C(N)C(=C1)Br)[N+](=O)[O-] | C8H9BrN2O2
reactant | sulfuric acid | 5mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 4.55g | N(=O)[O-].[Na+]
solvent | ethanol | 40mL | C(C)O | C2H6O
product | 3-bromo-5-ethylnitrobenzene | BrC=1C=C(C=C(C1)CC)[N+](=O)[O-] | C8H8BrNO2
